US05252747
(2S,4S)-4-Acetylamino-2-methylpyrrolidine (II)
A 2.93 g (12.61 mmol) sample of (2S,4S)-4-acetylamino-2-methyl-1-N-benzylpyrrolidine, from Example 1, step g above, was dissolved in 50 mL of methanol, 0.60 g of 10% Pd/C was added and the mixture shaken under 4 atm of hydrogen at room temperature for 13 hours. The mixture was concentrated, the catalyst was removed by filtration, and the solvent removed to afford 1.688 g (94.1% yield) of the title compound as a white solid. MS M/Z: 143 (M+H). NMR (CDCl3) δ: 1.16 (d, 3H, J=6 Hz), 1.63 (m, 1H), 1.79 (m, 1H), 1.95 (s, 3H), 2.65 (m, 1H), 3.28 (m, 1H), 3.41 (m, 1H), 4.40 (m, 1H), 5.81 (br, 1H).

reactant | (2S,4S)-4-acetylamino-2-methyl-1-N-benzylpyrrolidine | C(C)(=O)N[C@H]1C[C@@H](N(C1)CC1=CC=CC=C1)C | C14H20N2O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 mL | CO | CH4O
catalyst | Pd/C | 0.60 g | [Pd] | Pd
product | (2S,4S)-4-Acetylamino-2-methylpyrrolidine | 1.688 g, 94.1% yield | C(C)(=O)N[C@H]1C[C@@H](NC1)C | C7H14N2O
